US08133887B2
3.5 (6aR*, 10aR*)-1-(tert-butyldimethylsilyloxy)-3-pentyl-6a,7,8,9,10,10a-hexahydrobenzo[c]chromene-6-thione
2.00 g (4.97 mmol) of (6aR*,10aR*)-1-(tert-butyldimethylsilyloxy)-3-pentyl-6a,7,8,9,10,10a-hexahydrobenzo[c]chromen-6-one was heated under reflux at 140° C. for 17 h with 4.25 g (10.2 mmol) of Lawesson's reagent in xylene.

reactant | (6aR*,10aR*)-1-(tert-butyldimethylsilyloxy)-3-pentyl-6a,7,8,9,10,10a-hexahydrobenzo[c]chromen-6-one | 4.97 mmol, 2.00 g | [Si](C)(C)(C(C)(C)C)OC1=C2[C@H]3[C@H](C(OC2=CC(=C1)CCCCC)=O)CCCC3 | C24H38O3Si
reactant | Lawesson's reagent | 10.2 mmol, 4.25 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(tert-butyldimethylsilyloxy)-3-pentyl-6a,7,8,9,10,10a-hexahydrobenzo[c]chromene-6-thione | [Si](C)(C)(C(C)(C)C)OC1=C2C3C(C(OC2=CC(=C1)CCCCC)=S)CCCC3 | C24H38O2SSi
